US09315521B2
A mixture of 6-(bromomethyl)quinoxaline (900 mg, 4.0 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (440 mg, 3.1 mmol), and triethylamine (1.1 mL, 7.8 mmol) in absolute ethanol (20 mL) was stirred at room temperature overnight. The reaction mixture was evaporated and then co-evaporated with EtOAc. The solid residue was treated with water (100 mL). The solid product was recovered by filtration, washed with water (2×20 mL), diethyl ether (3×20 mL), and hexanes (3×20 mL), and then dried in vacuo, affording 6-methyl-2-[(quinoxalin-6-ylmethyl)sulfanyl]pyrimidin-4-ol (658 mg, 75% yield). The product was used without further purification.

reactant | 6-(bromomethyl)quinoxaline | 4.0 mmol, 900 mg | BrCC=1C=C2N=CC=NC2=CC1 | C9H7BrN2
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 3.1 mmol, 440 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 7.8 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 6-methyl-2-[(quinoxalin-6-ylmethyl)sulfanyl]pyrimidin-4-ol | 658 mg, 75% yield | CC1=CC(=NC(=N1)SCC=1C=C2N=CC=NC2=CC1)O | C14H12N4OS
